US08372837B2
To a stirring solution of tert-butyl 4-(3-carbamoyl-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate (985 mg, 2.0 mmol) in THF (50 mL) at room temperature under argon was added TEA (405 mg, 4.0 mmol), and was followed by addition of TFAA (840 mg, 4.0 mmol). The resulting reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo. The crude product was dissolved in a small amount of DCM (˜5 ml) and loaded onto a 40 g ISCO silica gel column which was eluted with a 20 min gradient from 20% to 100% EtOAc/Hexanes. 908 mg (91%) of tert-butyl 4-(3-cyano-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.43-1.51 (m, 9H) 1.81-1.95 (m, 2H) 1.95-2.09 (m, 2H) 3.27-3.57 (m, 2H) 3.57-3.88 (m, 2H) 4.38-4.81 (m, 1H) 6.29 (s, 1H) 7.83 (d, J=8.35 Hz, 1H) 8.20 (dd, J=8.57, 2.42 Hz, 1H) 9.04 (d, J=2.64 Hz, 1H). MS (ESI) 419 (M+H-tBu).

reactant | tert-butyl 4-(3-carbamoyl-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 2.0 mmol, 985 mg | C(N)(=O)C1=NN(C(C=C1OC1CCN(CC1)C(=O)OC(C)(C)C)=O)C1=CC=C(C=C1)S(=O)(=O)C | C22H28N4O7S
reactant | TFAA | 4.0 mmol, 840 mg | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-cyano-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 908 mg, 91% | C(#N)C1=NN(C(C=C1OC1CCN(CC1)C(=O)OC(C)(C)C)=O)C1=CC=C(C=C1)S(=O)(=O)C | C22H26N4O6S
